US07897619B2
6-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazol-2(3H)-one:
Bis(pinacolato)diboron (3.6 g, 14 mmol), potassium acetate (1.7 g, 18 mmol), tricyclohexylphosphine (0.48 g, 1.7 mmol), 6-chlorobenzo[d]oxazol-2(3H)-one (2.0 g, 12 mmol) (commercially available from Acros Organics (Order Number 29726)), Pd2(dba)3 (0.65 g, 0.71 mmol) and 5 mL of dioxane were heated in a Smith Synthesizer® microwave reactor (Personal Chemistry, Inc., Upssala, Sweden) at 150° C. for 20 minutes. The reaction mixture was adsorbed onto silica gel. The residue was purified by chromatography on silica gel (0-40% EtOAc/hexane) to give the product as a white solid (2.0 g, 65% yield). 1H NMR (400 MHz, CDCl3) ppm d 1.58 (s, 12H), 7.05 (d, J=7.82 Hz, 1H), 7.61-7.65 (m, 2H), 8.21 (br s, 1H).

reactant | Bis(pinacolato)diboron | 14 mmol, 3.6 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 18 mmol, 1.7 g | C(C)(=O)[O-].[K+]
reactant | tricyclohexylphosphine | 1.7 mmol, 0.48 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | 6-chlorobenzo[d]oxazol-2(3H)-one | 12 mmol, 2.0 g | ClC1=CC2=C(NC(O2)=O)C=C1 | C7H4ClNO2
catalyst | Pd2(dba)3 | 0.71 mmol, 0.65 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 6-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazol-2(3H)-one | 2.0 g, 65% yield | CC1(OB(OC1(C)C)C1=CC2=C(NC(O2)=O)C=C1)C | C13H16BNO4
